US04464387
1-phenyl-3-n-butyl hydantoin
N-phenyl glycine (0.15 mole) was added with stirring over a 15 minute period to n-butyl isocyanate (0.15 mole). After the addition was complete the reaction mixture was refluxed for about 6 hours and then allowed to stand at room temperature until it solidified. The solidified mass was crystallized from ethanol and produced 0.065 moles of the above-described product having a melting point of 74° l C.

reactant | N-phenyl glycine | 0.15 mole | C1(=CC=CC=C1)NCC(=O)O | C8H9NO2
reactant | n-butyl isocyanate | 0.15 mole | C(CCC)N=C=O | C5H9NO
product | 1-phenyl-3-n-butyl hydantoin | 0.065 moles | C1(=CC=CC=C1)N1C(=O)N(C(=O)C1)CCCC | C13H16N2O2
